US07943669B2
Step B: {4-[3-Cyclopropylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)benzylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-Cyclopropylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (173 mg; 0.34 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness. Yield: 107 mg; 66%. HPLC-MS: m/z: 482.0 (M+H)+; Rt: 1.62 min.

reactant | {4-[3-Cyclopropylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-benzylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.34 mmol, 173 mg | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC1CC1)C)=O | C29H35NO5S
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {4-[3-Cyclopropylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)benzylsulfanyl]-2-methyl-phenoxy}-acetic Acid | C1(CC1)COC=1C=C(CSC2=CC(=C(OCC(=O)O)C=C2)C)C=C(C1)C#CCN1CCOCC1 | C27H31NO5S
